US05494919
Step A: 2-Cyano-4-phenylpyridine
To a stirred solution of 4-phenylpyridine N-oxide (25 g, 0.146 mmol) in dichloromethane (200 ml) at room temperature was added trimethylsilyl cyanide (17.4 g), followed by the slow addition of dimethyl carbamyl chloride (16.2 ml) in dichloromethane (50 ml) over a 30 minute period. The reaction mixture was stirred at room temperature for one day, and then to it potassium carbonate solution (10%,150 ml) was added slowly. Stirring continued for an additional 30 minutes, the organic layer was separated, and the aqueous layer was extracted with dichloromethane. The extracts were combined and dried over magnesium sulfate. Evaporation in vacuo gave a crude reaction product (35 g) as a white solid. It was used without further purification.

reactant | 4-phenylpyridine N-oxide | 0.146 mmol, 25 g | C1(=CC=CC=C1)C1=CC=[N+](C=C1)[O-] | C11H9NO
reactant | trimethylsilyl cyanide | 17.4 g | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethyl carbamyl chloride | 16.2 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | potassium carbonate | 150 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Cyano-4-phenylpyridine | C(#N)C1=NC=CC(=C1)C1=CC=CC=C1 | C12H8N2
